US05369121
Step A: 2-Phenyl-1-[4-(trifluoromethyl)phenyl]ethanone
To a solution of 45.0 g of 1-bromo-4-(trifluoromethyl)benzene in 300 mL of THF cooled to -78° C. was added 77.0 mL of 2.5M n-butyl lithium in hexane dropwise. An exothermic reaction to -55° C. was observed. The reaction was then stirred for 20 minutes after which time phenyl acetaldehyde (23.5 mL, 0.2 mol) was added dropwise. The reaction was then stirred for an additional hour with gradual warming to room temperature. The mixture was then partitioned between ether and water, dried over anhydrous magnesium sulfate and concentrated to 52.6 g of a yellow oil. The crude oil was dissolved in 600 mL of methylene chloride and 100 g of pyridinium dichromate was added in several portions over 20 minutes and the mixture was then stirred at room temperature overnight. The reaction was then diluted with ether and filtered through magnesium sulfate and concentrated. The crude product was dissolved in hot n-butyl chloride, insoluble material was filtered off and the mixture was cooled to 0° C. Filtration and drying of the precipitate afforded 12.7 g of the title compound as a white solid, mp 127°-128° C.

reactant | 1-bromo-4-(trifluoromethyl)benzene | 45.0 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | n-butyl lithium | 2.5M, 77.0 mL | C(CCC)[Li]
reactant | phenyl acetaldehyde | 0.2 mol, 23.5 mL | C1(=CC=CC=C1)CC=O | C8H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Phenyl-1-[4-(trifluoromethyl)phenyl]ethanone | 12.7 g | C1(=CC=CC=C1)CC(=O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3O
